US05081246
1-(N-Benzyloxycarbonyltyrosyl)-4-(tert-butoxycarbonyl)piperazine
21.31 g of N-benzyloxycarbonyltyrosine and 11.79 of N-(tert-butoxycarbonyl)piperazine were dissolved in a mixed solvent of 200 ml of methylene chloride and 100 ml of ethyl acetate, and to the solution was added 14 g of DCC. After stirring at a room temperature for 40 hours, precipitated insoluble matter was filtered off, and the filtrate was concentrated under a reduced pressure, and resulting residue was applied to a silica gel column and eluted with hexane/ethyl acetate (1:1) to obtain 23.9 g of the title compound in a colorless amorphous form

reactant | N-benzyloxycarbonyltyrosine | 21.31 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C17H17NO5
reactant | N-(tert-butoxycarbonyl)piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | DCC | 14 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-(N-Benzyloxycarbonyltyrosyl)-4-(tert-butoxycarbonyl)piperazine | 23.9 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C26H33N3O6
